US05410065
Preparation of 5-Amino-N-(2,6-difluorophenyl)-1,2,4-triazole-3-sulfonamide Formula IV, W and X=F, Y and Z=H)
A mixture of 16.9 g (0.045 mole) of 5-benzoylamino-N-(2,6-difluorophenyl)-1,2,4-triazole-3-sulfonamide and 75 ml of 6N sodium hydroxide was heated to reflux for a total of 4 hours. The resulting solution was treated with decolorizing carbon, filtered, and acidified with hydrochloric acid. The solids that formed were collected by filtration and dried to obtain a total of 14.8 g of crude product. This material was taken up dilute aqueous sodium hydroxide, treated again with decolorizing carbon, filtered and acidified to pH 5.0. The resulting slurry was chilled and the solids collected by filtration and dried to obtain 9.0 g of the title compound as a white solid, m.p. 255°-257° (dec.). The carbon nmr spectrum was consistent with the assigned structure and the melting point with that in the art.

reactant | 5-benzoylamino-N-(2,6-difluorophenyl)-1,2,4-triazole-3-sulfonamide | 0.045 mole, 16.9 g | C(C1=CC=CC=C1)(=O)NC1=NC(=NN1)S(=O)(=O)NC1=C(C=CC=C1F)F | C15H11F2N5O3S
reactant | sodium hydroxide | 6N, 75 ml | [OH-].[Na+]
product | 5-Amino-N-(2,6-difluorophenyl)-1,2,4-triazole-3-sulfonamide | 9.0 g | NC1=NC(=NN1)S(=O)(=O)NC1=C(C=CC=C1F)F | C8H7F2N5O2S
